US09428512B2
Intermediate 9: 2-Butyl-4-chloro-6-methyl-5H-pyrrolo[3,2-d]pyrimidine
Phosphorus oxychloride (42.8 mL, 70.4 g, 0.459 mol) was added dropwise to a solution of 2-butyl-6-methyl-3H-pyrrolo[3,2-d]pyrimidin-4(5H)-one (37.5 g, 0.183 mol) in acetonitrile (750 mL) under an atmosphere of nitrogen. The reaction mixture was heated at reflux overnight. After cooling to room temperature an additional portion of phosphorus oxychloride (42.8 mL, 70.4 g, 0.459 mol) was added dropwise and heating continued for a further 3.5 hours. The reaction was cooled to room temperature again and a further portion of phosphorus oxychloride (42.8 mL, 70.4 g, 0.459 mol) was added dropwise and heating continued for 3 hours. The reaction mixture was allowed to stand at room temperature overnight then heated at reflux for 3.5 hours. The reaction mixture was cooled then concentrated. The residue was cooled in an ice-bath and ice-cold water (650 mL) was added carefully. The pH was adjusted to 8 using aqueous potassium hydroxide solution and then mixture stirred for 45 minutes. The mixture was partitioned between dichloromethane (1000 mL) and water (1000 mL). The aqueous layer and solid material was re-extracted with dichloromethane (2×500 mL). The combined organic layers were dried (Na2SO4) and filtered through a plug of neutral alumina. The filtrate was concentrated to a yellow oil, a seed crystal and hexane were added. The solid material was filtered, washed with hexane and dried to give the title compound as an off-white solid (15.5 g).

reactant | Phosphorus oxychloride | 0.459 mol, 42.8 mL, 70.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-butyl-6-methyl-3H-pyrrolo[3,2-d]pyrimidin-4(5H)-one | 0.183 mol, 37.5 g | C(CCC)C=1NC(C2=C(N1)C=C(N2)C)=O | C11H15N3O
reactant | phosphorus oxychloride | 0.459 mol, 42.8 mL, 70.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorus oxychloride | 0.459 mol, 42.8 mL, 70.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 750 mL | C(C)#N | C2H3N
product | 2-Butyl-4-chloro-6-methyl-5H-pyrrolo[3,2-d]pyrimidine | 15.5 g | C(CCC)C=1N=C(C2=C(N1)C=C(N2)C)Cl | C11H14ClN3
